US07625938B2
3,5-dichloro-N-methoxy-N-methylbenzamide
To a solution of 3,5-dichlorobenzoyl chloride (5 g, 23.9 mmol) in 50 mL of dichloromethane at 0° C. was added N,O-dimethylhydroxylamine hydrochloride (2.56 g, 26.3 mmol) and pyridine (4.3 mL, 52.6 mmol). The cold bath was removed and the mixture stirred at ambient temperature for 16 hours, diluted with water and extracted with two portions of dichloromethane. The combined organic layers were dried over magnesium sulfate, concentrated in vacuo, and the residue purified by flash column chromatography (SiO2, 20% ethyl acetate/hexanes) to give the title compound as a colorless oil. 1H NMR (500 MHz, CDCl3) δ: 7.61 (d, J=1.9 Hz, 2H); 7.50 (d, J=1.9 Hz, 1H); 3.60 (s, 3H); 3.40 (s, 3H).

reactant | 3,5-dichlorobenzoyl chloride | 23.9 mmol, 5 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 26.3 mmol, 2.56 g | Cl.CNOC
reactant | pyridine | 52.6 mmol, 4.3 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3,5-dichloro-N-methoxy-N-methylbenzamide | ClC=1C=C(C(=O)N(C)OC)C=C(C1)Cl | C9H9Cl2NO2
